US04308343
Synthesis of 5-Butanoyloxy-1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-tetradecanamidoanilino)-4-(1,2,4-triazol-1-yl)-1H-pyrazole [Coupler (1)]
20 g of 1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-tetradecanamidoanilino)-4-(1,2,4-triazol-1-yl)-5-oxo-2-pyrazoline (prepared by the method described in U.S. Pat. No. 4,076,533) was suspended in 100 ml of acetonitrile and 3.7 g of butanoyl chloride was added to the mixture, followed by refluxing for 3 hours. After cooling to room temperature, 500 ml of ethyl acetate was added to the reaction mixture and washed several times with water. The ethyl acetate layer was dried with anhydrous sodium sulfate and concentrated. Upon crystallization of the residue from a solvent mixture of acetonitrile and benzene, 16 g of Coupler (1) was obtained. The melting point of the coupler was 89° to 95° C.

reactant | 1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-tetradecanamidoanilino)-4-(1,2,4-triazol-1-yl)-5-oxo-2-pyrazoline | 20 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)N1N=CN=C1)NC1=C(C=CC(=C1)NC(CCCCCCCCCCCCC)=O)Cl | C31H37Cl4N7O2
reactant | butanoyl chloride | 3.7 g | C(CCC)(=O)Cl | C4H7ClO
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-Butanoyloxy-1-(2,4,6-trichlorophenyl)-3-(2-chloro-5-tetradecanamidoanilino)-4-(1,2,4-triazol-1-yl)-1H-pyrazole | C(CCC)(=O)OC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)NC1=C(C=CC(=C1)NC(CCCCCCCCCCCCC)=O)Cl)N1N=CN=C1 | C35H43Cl4N7O3
